US04082843
To a solution of methyl 3-(3-hydroxybenzoyl)propionate in chloroform at -5° to 0° was added paraformaldehyde and zinc chloride. Dry hydrogen chloride was passed through the well-stirred solution until the saturation point was reached and the stirring was continued for a further hour at room temperature. The reaction mixture was then poured into ice-water, the product extracted into dichloromethane and the organic layer washed with water and dried over magnesium sulphate. Evaporation of the dichloromethane gave an oily residue from which methyl 3-(4-chloromethyl-3-hydroxybenzoyl)-propionate was obtained by crystallisation from ethanol.

reactant | methyl 3-(3-hydroxybenzoyl)propionate | OC=1C=C(C(=O)CCC(=O)OC)C=CC1 | C11H12O4
reactant | paraformaldehyde | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | methyl 3-(4-chloromethyl-3-hydroxybenzoyl)-propionate | ClCC1=C(C=C(C(=O)CCC(=O)OC)C=C1)O | C12H13ClO4
